US05221685
(20) Synthesis of 2-(3-bromobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 23)
In toluene (80 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (5.0 g) and triethylamine (1.5 ml), and a solution of 3-bromobenzoyl chloride (2.9 g) dissolved in toluene (10 ml) was gradually added thereto under cooling and the mixture was stirred at 103° C. for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 5.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromobenzoyl chloride | 2.9 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | BrC=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1 | C14H5BrF10N2OS
